US07525717B2
2-(Benzyloxy)-6-butylpyridine
To a flask were added 2.0 g 2-(benzyloxy)-6-chloropyridine, 5.0 ml 1-methyl-2-pyrrolidinone and 50 ml of dry tetrahydrofuran. After cooling to 5 C under nitrogen, 0.16 g iron(III) acetylacetonate were added followed by drop wise addition of 8.5 ml of a 2M solution of butylmagnesium bromide in tetrahydrofuran. After stirring for 1 hour at 22 C, the reaction was cooled to 10 C and quenched with 20 ml aqueous ammonium chloride. The mixture was diluted with water and extracted with hexane. After washing with water and removal of solvent, the product was purified by silica gel chromatography using 10% ethyl acetate in hexane to give 1.6 g of an oil.

reactant | 2-(benzyloxy)-6-chloropyridine | 2.0 g | C(C1=CC=CC=C1)OC1=NC(=CC=C1)Cl | C12H10ClNO
reactant | 1-methyl-2-pyrrolidinone | 5.0 ml | CN1C(CCC1)=O | C5H9NO
reactant | butylmagnesium bromide | C(CCC)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | iron(III) acetylacetonate | 0.16 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(Benzyloxy)-6-butylpyridine | 1.6 g | C(C1=CC=CC=C1)OC1=NC(=CC=C1)CCCC | C16H19NO
